US07109209B2
To a solution of (2E)-3-(dimethylamino)-1-[2-(4-fluorophenyl)-6-(trifluoromethyl)-pyrazolo[1,5-α]pyridin-3-yl]-2-propen-1-one (314 mg, 0.83 mmol)) in 1-methyl-2-pyrrolidinone (3 mL) was added N-cyclopentylguanidine hydrochloride (271 mg, 1.66 mmol) and potassium carbonate (229 mg, 1.66 mmol). The mixture was heated at 140° C. for 8 hours. Upon cooling to room temperature, ether was added followed by water. The organics were washed with brine, and the aqueous layer was extracted with ether. The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica (4:1 hexanes-ethyl acetate) to give N-cyclopentyl-4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine (204 mg, 56%) as a white solid. 1H NMR (CDCl3): δ 8.84 (s, 1H), 8.51 (d, 1H), 8.11 (d, 1H), 7.64 (dd, 2 H), 7.44 (dd, 1H), 7.17 (t, 2H), 6.33 (d, 1H), 5.17 (d, 1H), 4.34 (m, 1H), 2.15–2.06 (m, 2 ),H 1.84–1.52 (m, 6H); 19F NMR (CDCl3): δ−62.70, −112.25; MS m/z 442 (M+1); mp 155–156° C.

reactant | (2E)-3-(dimethylamino)-1-[2-(4-fluorophenyl)-6-(trifluoromethyl)-pyrazolo[1,5-α]pyridin-3-yl]-2-propen-1-one | 0.83 mmol, 314 mg | CN(/C=C/C(=O)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)F)C | C19H15F4N3O
reactant | N-cyclopentylguanidine hydrochloride | 1.66 mmol, 271 mg | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 1.66 mmol, 229 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | N-cyclopentyl-4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine | 204 mg, 56% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)F | C23H19F4N5
